US07728025B2
(Step 8) Production of 1-(2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone
0.003 ml of acetic anhydride was added to a methylene chloride (1 ml) solution of 10 mg of 5-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-6-pyrrolidin-2-yl-1H-benzimidazole, and the reaction liquid was stirred at room temperature for 1 hour. The reaction solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=10/1) to obtain the entitled compound as a white solid.

reactant | acetic anhydride | 0.003 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-6-pyrrolidin-2-yl-1H-benzimidazole | 10 mg | CS(=O)(=O)C1=CC=C(OC2=CC3=C(NC(=N3)C3=NC=CC=C3)C=C2C2NCCC2)C=C1 | C23H22N4O3S
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | CS(=O)(=O)C1=CC=C(OC=2C(=CC3=C(N=C(N3)C3=NC=CC=C3)C2)C2N(CCC2)C(C)=O)C=C1 | C25H24N4O4S
